US05145893
N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)succinamic Acid
Following the general procedure of Example 9, 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine is added to succinic anhydride over a 30-minute period. The reaction mixture is then stirred for two hours. The crude product is purified by flash chromatography on silica gel (9:1, ethyl acetate:methanol) followed by trituration with heptane to give the title compound in 75% yield as a white powder melting at 96°-103° C.

reactant | 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine | NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C17H36N2O
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)succinamic Acid | 75% yield | C(CCCCCCC)ON1C(CC(CC1(C)C)NC(CCC(=O)O)=O)(C)C | C21H40N2O4
